US07384967B2
2-(2,3-Dimethoxyphenoxy)-6-fluoro-nitrobenzene (1.05 g, 72%) was prepared from 2,3-dimethoxyphenol (0.85 g, 5.5 mmol) and 2,6-difluoronitrobenzene (0.80 g, 5.0 mmol) following the general procedure A. This compound was reduced to 2-(2,3-dimethoxyphenoxy)-6-fluoroaniline (0.66 g, 70%) following the general procedure C N-[2-(2,3-Dimethoxyphenoxy)-6-fluorophenyl]-N′-(thiazol-2-yl)urea (136 mg, 70%) was prepared from 2-(2,3-dimethoxyphenoxy)-6-fluoroaniline (131 mg, 0.5 mmol) and 2-aminothiazole (60 mg, 0.6 mmol) following the general procedure D.

reactant | 2,3-dimethoxyphenol | 5.5 mmol, 0.85 g | COC1=C(C=CC=C1OC)O | C8H10O3
reactant | 2,6-difluoronitrobenzene | 5.0 mmol, 0.80 g | FC1=C(C(=CC=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 2-(2,3-dimethoxyphenoxy)-6-fluoroaniline | 0.66 g | COC1=C(OC2=C(N)C(=CC=C2)F)C=CC=C1OC | C14H14FNO3
reactant | 2-(2,3-dimethoxyphenoxy)-6-fluoroaniline | 0.5 mmol, 131 mg | COC1=C(OC2=C(N)C(=CC=C2)F)C=CC=C1OC | C14H14FNO3
reactant | 2-aminothiazole | 0.6 mmol, 60 mg | NC=1SC=CN1 | C3H4N2S
catalyst | N-[2-(2,3-Dimethoxyphenoxy)-6-fluorophenyl]-N′-(thiazol-2-yl)urea | 136 mg | COC1=C(OC2=C(C(=CC=C2)F)NC(=O)NC=2SC=CN2)C=CC=C1OC | C18H16FN3O4S
product | 2-(2,3-Dimethoxyphenoxy)-6-fluoro-nitrobenzene | 1.05 g, 72% | COC1=C(OC2=C(C(=CC=C2)F)[N+](=O)[O-])C=CC=C1OC | C14H12FNO5
